US04447361
6-(4-Methoxyphenyl)-11H-pyrido[2,3-b][1,4]benzodiazepine
A stirred mixture of 20.0 g (0.088 mole) of 2-amino-4'-methoxybenzophenone and 13.0 g (0.097 mole) of 3-amino-2-chloropyridine (96%) was heated at 180° C. under a nitrogen atmosphere for 2.0 hr. The reaction mixture was cooled to approximately 70° C. and 100 ml of methylene chloride was added slowly. After the mixture had cooled to room temperature, another 50 ml of methylene chloride was added and the mixture was stirred overnight. The suspended solid was collected by filtration, air dried, dissolved in methanol and basified with 3 N sodium hydroxide. The suspension was diluted with 500 ml water and extracted with three 250 ml portions of methylene chloride. The combined methylene chloride extracts were dried over magnesium sulfate and evaporated under reduced pressure. Analysis by mass spectra (EI and CI) indicated the residue was a mixture of [2-[(3-amino-2-pyridyl)amino]phenyl](4-methoxphenyl)methanone and the title compound. The residue-mixture was dissolved in 250 ml toluene with a catalytic amount of para toluene sulfonic acid and the solution was refluxed overnight under a nitrogen atmosphere while separating water in a Dean-Stark trap. The reaction mixture was filtered while hot. The product precipitated as the filtrate cooled to room temperature and was collected by filtration. After recrystallization from benzene the product weighed 1.8 g, m.p. 198.5°-200°-5° C. (d).

reactant | 2-amino-4'-methoxybenzophenone | 0.088 mole, 20.0 g | NC1=C(C(=O)C2=CC=C(C=C2)OC)C=CC=C1 | C14H13NO2
reactant | 3-amino-2-chloropyridine | 0.097 mole, 13.0 g | NC=1C(=NC=CC1)Cl | C5H5ClN2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 6-(4-Methoxyphenyl)-11H-pyrido[2,3-b][1,4]benzodiazepine | COC1=CC=C(C=C1)C1=NC2=C(NC3=C1C=CC=C3)N=CC=C2 | C19H15N3O
